US06703425B2
Preparation of 2-[4-(2-Aminoethyl)phenyl]ethylamine
Scheme I, step B′: Into a 250 mL reduction vessel were placed 1,4-phenylenediacetonitrile (10 g, 64.02 mmol), liquid ammonia (25 mL), and W4-W6 range (medium range activity) Raney Nickel (1.25 g) in methanol (125 mL), and the mixture was heated at 100° C. under 300 psi (2068 kPa) of hydrogen gas for 10 hours. The reaction was cooled to room temperature and filtered through a Celite® cake and the filtrate was concentrated under reduced vacuum to give the intermediate title compound, 2-[4-(2-aminoethyl)phenyl]ethylamine, (10.3 g, 98%) as an oil. Electron spray M.S. 165 (M*+H).

reactant | 1,4-phenylenediacetonitrile | 64.02 mmol, 10 g | C1(=CC=C(C=C1)CC#N)CC#N | C10H8N2
reactant | ammonia | 25 mL | N | H3N
reactant | hydrogen | [H][H] | H2
catalyst | Raney Nickel | 1.25 g | [Ni] | Ni
solvent | methanol | 125 mL | CO | CH4O
product | 2-[4-(2-aminoethyl)phenyl]ethylamine | 10.3 g, 98% | NCCC1=CC=C(C=C1)CCN | C10H16N2
